US06908916B2
[5-(2-Amino-2-methyl-propoxymethyl)-pyrrolo[2,1-f][1,2,4]triazin-4-yl]-[1-(3-fluoro-benzyl)-1H-indazol-5-yl]-amine
A mixture of acetic acid 4-[1-(3-fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethylester (100 mg, 0.24 mmol), (2-hydroxy-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester 156 mg, 3 equiv) and DIPEA (62 μL, 1.5 equiv) in dry acetonitrile (0.2 mL) in a vial was placed in a microwave reactor (Personal Chemistry's Smith Creator) and irradiated for 10 min at 109° C. The solvent was removed and the residue was taken up in dry DCM (3 mL) and cooled to 0° C. TFA (3 mL) was added and after 1.5 hr, the solvents were removed. The residue was partitioned between DCM and saturated NaHCO3 solution. The organic phase was dried (Na2SO4) and the solvent was removed. Purification by radial chromatography (1 mm silica gel plate, gradient elution with 0 to 5% MeOH in DCM) gave the title compound (13 mg, 12% yield): MS: 460 (M+H)+; HPLC Ret Time: 1.34 min, YMC Xterra ODS S7 3.0×50 mm, 2 min gradient, 5 mL/min).

reactant | acetic acid 4-[1-(3-fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethylester | 0.24 mmol, 100 mg | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NN3C2=C(C=C3)COC(C)=O)C=CC1 | C23H19FN6O2
reactant | (2-hydroxy-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester | 156 mg, 3 equiv | C(C)(C)(C)OC(NC(CO)(C)C)=O | C9H19NO3
reactant | DIPEA | 62 μL, 1.5 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 0.2 mL | C(C)#N | C2H3N
product | [5-(2-Amino-2-methyl-propoxymethyl)-pyrrolo[2,1-f][1,2,4]triazin-4-yl]-[1-(3-fluoro-benzyl)-1H-indazol-5-yl]-amine | 13 mg, 12% yield | NC(COCC=1C=CN2N=CN=C(C21)NC=2C=C1C=NN(C1=CC2)CC2=CC(=CC=C2)F)(C)C | C25H26FN7O
